US06527959B1
Preparation of 4-methacrylamidosalicylic acid phenyl ester (4-MASAPE)
A solution of 29.6 g of phenyl 4-aminosalicylate (Aldrich) in 175 mL of acetone is cooled to 0° C. To this is added dropwise with stirring 29 mL of methacrylic anhydride (Aldrich) dissolved in 20 mL of acetone. The solution is allowed to warm to room temperature and is then heated at reflux for 20 hours. The reaction mixture is then cooled to room temperature and added to 400 mL of ice water. The resulting light yellow solid is isolated and dried under vacuum. The product is used without further purification.

reactant | phenyl 4-aminosalicylate | 29.6 g | NC=1C=C(C(C(=O)OC2=CC=CC=C2)=CC1)O | C13H11NO3
reactant | methacrylic anhydride | 29 mL | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
solvent | acetone | 175 mL | CC(=O)C | C3H6O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-methacrylamidosalicylic acid phenyl ester | C1(=CC=CC=C1)OC(C=1C(O)=CC(=CC1)NC(C(=C)C)=O)=O | C17H15NO4
